US04203987
2,3,4,4a-Tetrahydro-3-[3-(4-Pyridinyl)Propyl]-1H-Pyrazino[1,2-a]Quinoxalin-5-(6H)-One
A solution of 6.1 g. (0.03 mole) of 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one, 6.3 g. (0.04 mole) of 3-(4-pyridyl)-1-chloropropane, 10 g. of potassium carbonate, 5 g. of potassium iodide and 0.5 ml. of triethylamine was stirred and refluxed in 200 ml. of acetone for 48 hours, then cooled and filtered. The solvent was removed, and the residue was dissolved in ethanol-ether and treated with dry hydrogen chloride saturated ether. The product hyrochloride was filtered and recrystallized two times from methanol. Dried at 100° C./0.1 mm. Yield: 6.2 g. (44%) as the dihydrochloride salt, m.p. 188°-190° C.

reactant | 2,3,4,4a-tetrahydro-1H-pyrazino[1,2-a]quinoxalin-5(6H)-one | 0.03 mole | C1CNCC2N1C1=CC=CC=C1NC2=O | C11H13N3O
reactant | 3-(4-pyridyl)-1-chloropropane | 0.04 mole | N1=CC=C(C=C1)CCCCl | C8H10ClN
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
reactant | potassium iodide | [I-].[K+]
solvent | acetone | CC(=O)C | C3H6O
solvent | triethylamine | C(C)N(CC)CC | C6H15N
product | 2,3,4,4a-Tetrahydro-3-[3-(4-Pyridinyl)Propyl]-1H-Pyrazino[1,2-a]Quinoxalin-5-(6H)-One | N1=CC=C(C=C1)CCCN1CC2N(C3=CC=CC=C3NC2=O)CC1 | C19H22N4O
